US04526993
5-Phenyl-2,4-Pentadienol
Analysis by GC and MS showed the major component to have m/e 160. Minor impurities included benzaldehyde and cinnamaldehyde. IR (CHCl3): cm-1 3620 (s), 3430 (br, OH), 3020 (s), 1650 (m), 1620 (m), 1600 (m).

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | cinnamaldehyde | C(C=CC1=CC=CC=C1)=O | C9H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-Phenyl-2,4-Pentadienol | C1(=CC=CC=C1)C=CC=CCO | C11H12O
